US03981715
Preparation of 3-isopropyl-5-bromo-6-(trifluoromethyl)uracil ##SPC7##
3-isopropyl-6-(trifluoromethyl)uracil as prepared in Example 1 (7.4 g., 0.033 mole) was dissolved in a mixture of 0.5N NaOH (0.04 mole) and chloroform (15 ml.). A solution of bromine (5.89 g., .036 mole) in 25 ml. chloroform was added in portions with stirring. After the addition was complete, the reaction mixture was stirred for one-half hour before discharging the bromine color with sodium bisulfite. The layers were separated, and the aqueous layer extracted with fresh chloroform. The combined chloroform extracts were washed with water and then evaporated to dryness leaving 10.1 g. (100%) of white solid residue. One recrystallization from benzene gave a product with a melting point of 146°-150°C. The analytical sample melted at 149°-150°C.

reactant | 3-isopropyl-6-(trifluoromethyl)uracil | C(C)(C)N1C(NC(=CC1=O)C(F)(F)F)=O | C8H9F3N2O2
reactant | NaOH | 0.04 mole, 0.5N | [OH-].[Na+]
reactant | bromine | .036 mole, 5.89 g | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-isopropyl-5-bromo-6-(trifluoromethyl)uracil | C(C)(C)N1C(NC(=C(C1=O)Br)C(F)(F)F)=O | C8H8BrF3N2O2
